US07384934B2
(S)-10-[4-(3-Fluoro-propyl)-3-(2-methoxy-ethyl)-piperazin-1-yl]-2-trifluoromethyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene
Add 1-bromo-3-fluoropropane (0.14 mL, 1.52 mmol) to a slurry of (S)-10-[3-(2-methoxy-ethyl)-piperazin-1-yl]-2-trifluoromethyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene (0.52 g, 1.26 mmol), powdered potassium carbonate (0.87 g, 6.32 mmol), and sodium iodide (0.95 g, 6.32 mmol) in absolute ethanol (7.8 mL) and heat to reflux. After an overnight period, cool, add saturated aqueous sodium chloride and ethyl acetate, and add deionized water to dissolve precipitated salt that formed during the extraction. Extract aqueous phase with ethyl acetate (2×), and dry (sodium sulfate), filter, and concentrate organics under reduced pressure to an oil (0.564 g). Purify the oil by flash chromatography, eluting with a gradient of a 2% solution of 2M ammonia in methanol, in dichloromethane, (0-100%) to give the title compound: mass spectrum (APCI, m/e): 472 (M+1); NMR (1H, 300 MHz, DMSO-d6): δ 8.47 (s, 1H), 6.96-6.82 (m, 3H), 6.71 (m, 1H), 4.55 (td, 2H, 2J(H,F)=48 Hz, 3J(H,H)=5.7 Hz), 3.47 (br. m, 3H), 3.31-3.18 (m, 3H), 3.15 (s, 3H), 2.70 (m, 2H), 2.55 (br. m, 1H), 2.38 (m, 2H), 1.86-1.67 (in, 3H), 1.61 (m, 1H).

reactant | 1-bromo-3-fluoropropane | 1.52 mmol, 0.14 mL | BrCCCF | C3H6BrF
reactant | (S)-10-[3-(2-methoxy-ethyl)-piperazin-1-yl]-2-trifluoromethyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene | 1.26 mmol, 0.52 g | COCC[C@H]1CN(CCN1)C1=NC2=C(NC=3SC(=NC13)C(F)(F)F)C=CC=C2 | C18H20F3N5OS
reactant | potassium carbonate | 6.32 mmol, 0.87 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 6.32 mmol, 0.95 g | [I-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | ethanol | 7.8 mL | C(C)O | C2H6O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-10-[4-(3-Fluoro-propyl)-3-(2-methoxy-ethyl)-piperazin-1-yl]-2-trifluoromethyl-4H-3-thia-1,4,9-triaza-benzo[f]azulene | FCCCN1[C@H](CN(CC1)C1=NC2=C(NC=3SC(=NC13)C(F)(F)F)C=CC=C2)CCOC | C21H25F4N5OS
